US08183231B2
Step 1: {(R)-3-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-methyl-butyrylamino]-2-hydroxy-propyl}-cyclohexylmethyl-phosphinic acid benzyl ester:
The title compound was prepared substantially in a similar manner as Example 12 Method B using N-Boc-L-valine-L-valine and ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl phosphinic acid benzyl ester hydrochloride. The crude product was purified by gradient flash chromatography (methanol/methylene chloride) on a RediSep disposable column. 1H NMR (CD3Cl, 300 MHz): δ 7.45-7.30 (m, 5H), 6.50 (d, 1H), 5.15-4.98 (m, 3H), 4.55 (br.s, 1H), 4.33-4.22 (m, 1H), 4.20-4.05 (m, 1H), 3.95-3.84 (m, 1H), 3.56-3.40 (m, 1H), 3.38-3.26 (m, 1H), 2.35-2.12 (m, 2H), 1.98-1.79 (m, 4H), 1.78-1.63 (m, 4H), 1.49 (s, 9H), 1.38-1.15 (m, 3H), 1.13-0.85 (m, 14H). 31P NMR (CD3OD, 300 MHz): δ 59.46, 58.33. LCMS m/z: [M+H]+=624.85.

reactant | N-Boc-L-valine L-valine | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O.N[C@@H](C(C)C)C(=O)O
reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
product | {(R)-3-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-methyl-butyrylamino]-2-hydroxy-propyl}-cyclohexylmethyl-phosphinic acid benzyl ester | C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CNC([C@H](C(C)C)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)O | C32H54N3O7P
